US05550233
17-Ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-oxoprop-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[but-3-en-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (1gm, 0.9 mmole) in THF (50 mL) was added OsO4 (0.15 M in THF, 0.6 mL, 0.09 mmole) and N-methylmorpholine-N-oxide (0.21 gm, 1.8 mmole). The reaction mixture was stirred for 6 hr at room temperature while monitoring the reaction progress by TLC (1:4, acetone:hexanes). The reaction mixture was diluted with saturated NaHSO4 and partitioned between diethyl ether, CH2Cl2 and H2O. The aqueous layer was extracted once with diethyl ether and the combined organic fractions were washed with brine, dried over Na2SO4, filtered and evaporated in vacuo. The crude diol product was dissolved in CH3OH (15 mL) and to it was added a solution NaIO4 (0.255 gm, 1.2 mmole) in H2O (5 mL). The reaction mixture was stirred at room temperature for 4 hours and the reaction progress was monitored by TLC (20% acetone:hexanes). The reaction was then partitioned between diethyl ether and H2O. Washed aqueous layer twice with ether and combined. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by chromatography (20% acetone:hexanes) to give the title compound (0.6 gm) MASS:(FAB) 1075 (M+ + Li).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[but-3-en-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.9 mmole, 1gm | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)(CCC=C)O[Si](CC)(CC)CC)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C59H103NO12Si2
reactant | N-methylmorpholine-N-oxide | 1.8 mmole, 0.21 gm | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | H2O | 5 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NaHSO4 | OS(=O)(=O)[O-].[Na+]
catalyst | OsO4 | 0.09 mmole, 0.15 M, 0.6 mL | O=[Os](=O)(=O)=O
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-oxoprop-1-yl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.6 gm | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)(CCC=O)O[Si](CC)(CC)CC)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C58H101NO13Si2
